US08304557B2
N-[6-(3-aminophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide
To a solution of tert-butyl {3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]phenyl}carbamate (10.5 g, 30.8 mmol) in N,N-dimethylacetamide (40 mL) was added with stirring under ice-cooling cyclopropanecarbonyl chloride (8.39 mL, 92.4 mmol), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, trifluoroacetic acid (50 mL) was added to the residue, and the mixture was stirred at 0° C. for 30 min. The solvent was evaporated under reduced pressure, and the residue was dissolved in water. The mixture was neutralized with saturated aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was collected by filtration and washed with ethyl acetate-hexane to give the title compound (7.44 g, 78%) as a white solid.

reactant | tert-butyl {3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]phenyl}carbamate | 30.8 mmol, 10.5 g | NC1=NN2C(C=CC(=C2)OC=2C=C(C=CC2)NC(OC(C)(C)C)=O)=N1 | C17H19N5O3
reactant | cyclopropanecarbonyl chloride | 92.4 mmol, 8.39 mL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | N,N-dimethylacetamide | 40 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | N-[6-(3-aminophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 7.44 g, 78% | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
